US05714488
A mixture of bis(4-(2-quinolylmethoxy)phenyl)methyloximinoacetic acid (570 mg, 1.00 mmol), prepared as in step 1, ethanol (7 mL), dry THF (3 mL), and 1N NaOH (1.10 mL, 1.10 mmol) was stirred for 1 hour. The reaction mixture was diluted with water and the aqueous phase was washed with hexane and concentrated in vacuo. The resulting solid was collected by filtration to provide bis(4-(2-quinolylmethoxy)phenyl)methyloximinoacetic acid sodium salt (0.48 g, 81%): 1H NMR (300 MHz, DMSO-d6)δ4.18 (s, 2H), 5.38 (s, 2H), 5.42 (s, 2H), 7.05 (d, 2H, J=8.8 Hz), 7.10 (d, 2H, J=8.8 Hz), 7.29 (d, 2H, J=8.8 Hz), 7.29 (d, 2H, J=8.8 Hz), 7.57 (d, 2H, J=8.8 Hz), 7.62 (m, 2H), 7.69 (m, 2H), 7.79 (m, 2H), 8.02 (m, 2H), 8.43 (m, 2H); MS (FAB+) m/z: 592 (M+H)+. Anal. Calcd. for C33 H26N3O5Na: C, 69.83; H, 4.61; N, 7.40. Found: C, 68.77; H, 4.29; N, 6.74.

reactant | bis(4-(2-quinolylmethoxy)phenyl)methyloximinoacetic acid | 1.00 mmol, 570 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C(C(=O)O)=NO | C35H27N3O5
reactant | ethanol | 7 mL | C(C)O | C2H6O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1.10 mmol, 1N, 1.10 mL | [OH-].[Na+]
solvent | water | O | H2O
product | bis(4-(2-quinolylmethoxy)phenyl)methyloximinoacetic acid sodium salt | 0.48 g, 81% | [Na+].N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C(C(=O)[O-])=NO | InChI=1S/C35H27N3O5.Na/c39-35(40)34(38-41)33(25-11-17-29(18-12-25)42-21-27-15-9-23-5-1-3-7-31(23)36-27)26-13-19-30(20-14-26)43-22-28-16-10-24-6-2-4-8-32(24)37-28;/h1-20,33,41H,21-22H2,(H,39,40);/q;+1/p-1
